US06548515B1
(±)-9-Benzyl-6,7-methylenedioxy-4,9-dihydrofuro[3,4-b]quinolin-1(3H)-one
10 mmol of phenylacetaldehyde and 10 mmol of tetronic acid are added to 10 mmol of 3,4-methylenedioxyaniline dissolved in ethanol, then the reaction mixture is heated at reflux for the night. After returning to ambient temperature, the precipitate obtained is filtered and then washed with ethanol to yield the expected product.

reactant | phenylacetaldehyde | 10 mmol | C1(=CC=CC=C1)CC=O | C8H8O
reactant | tetronic acid | 10 mmol | C1C(=O)COC1=O | C4H4O3
reactant | 3,4-methylenedioxyaniline | 10 mmol | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
solvent | ethanol | C(C)O | C2H6O
product | (±)-9-Benzyl-6,7-methylenedioxy-4,9-dihydrofuro[3,4-b]quinolin-1(3H)-one | C(C1=CC=CC=C1)C1C2=C(NC=3C=C4C(=CC13)OCO4)COC2=O | C19H15NO4
